*****************************************************************
* NXP BUK9Y29-40E
*
* Polarity N-Channel
* Ratings 40V/2.900000E-002OHMS/25.2798514684574A
*
* Date Created Wed Feb 06 05:22:09 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y29-40E DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0165511854016889 TC=0.0164288407060243,-5.97108574824348E-05
RBD 9 4 0.00514361445648448 TC=0.0164288407060243,-5.97108574824348E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 4.45e-10
RG 1 2 1.55795376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	58.553
+ -16	59.905
+ -10	63.855
+ -5	70.732
+ -4	73.983
+ -3	78.134
+ -2	89.5
+ -1	93.052
+ -0.5	99.276
+ -0.2	108.283
+ -0.1	121.924
+ 0	121.724
+ 0.1	121.927
+ 0.2	107.11
+ 0.5	96.307
+ 1	86.831
+ 2	76.246
+ 3	70.039
+ 4	65.51
+ 5	62.081
+ 6	59.649
+ 8	56.627
+ 10	54.859
+ 12	53.664
+ 15	52.38
+ 20	50.732
+ 25	49.319
+ 30	48.116



.MODEL MINT NMOS(Vto=2.10850500156382 Kp=4.057836e+001 Nfs=590000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=6.26099024464527e-14
+ N=1 M=0.59 VJ=0.74 Fc=0.5 Cjo=2.72176e-10 Tt=7.896e-09)

.ENDS

